US05232929
To a stirred solution of 2,5-dioxo-6-benzhydrylpiperidine (15.35 gm, 55 mmole) in pyridine (150 ml) was added hydroxylamine hydrochloride (10.63 gm, 165 mmole) and the reaction mixture was stirred for 15 min. The reaction mixture was concentrated under vacuum, and the contents were poured into 1N HCl (250 ml). The aqueous phase was extracted with methylene chloride (2×300 ml) and dried (anhyd. magnesium sulfate). The methylene chloride was removed under vacuum to afford 2-oxo-5-oximino-6-benzhydrylpiperidine (10.62 gms, 65%).

reactant | 2,5-dioxo-6-benzhydrylpiperidine | 55 mmole, 15.35 gm | O=C1NC(C(CC1)=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H17NO2
reactant | hydroxylamine hydrochloride | 165 mmole, 10.63 gm | Cl.NO
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2-oxo-5-oximino-6-benzhydrylpiperidine | 10.62 gms, 65% | O=C1NC(C(CC1)=NO)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18N2O2
